US08029919B2
3,7-Bis[1,3-bis(trifluoroacetyl)-2,3-dihydroimidazol-2-yl]-10-phenylphenothiazine
228.8 g (1.09 mol) of trifluoroacetic anhydride were added dropwise with stirring and under nitrogen within 5 min to a solution of 28.2 g (0.416 mol) of imidazole in 396 ml of anhydrous acetonitrile. After the solution had been heated to reflux temperature, 55.0 g (0.198 mol) of 10-phenylphenothiazine (J. Cymerman-Craig, W. P. Rogers and G. P. Warwick, Aust. J. Chem. 1955, 8, 252-257) were added. The solution was heated to boiling under reflux for 8 hours. Subsequently, the solvent was distilled off and the residue was admixed with ice/water and sodium carbonate. The solid was filtered off with suction and suspended in 825 ml of methanol. The suspension was sucked through a suction filter and the residue was washed twice with 50 ml each time of ether and dried under reduced pressure. 110 g of yellowish solid were obtained.

reactant | trifluoroacetic anhydride | 1.09 mol, 228.8 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | imidazole | 0.416 mol, 28.2 g | N1C=NC=C1 | C3H4N2
reactant | 10-phenylphenothiazine | 0.198 mol, 55.0 g | C1(=CC=CC=C1)N1C2=CC=CC=C2SC=2C=CC=CC12 | C18H13NS
solvent | acetonitrile | 396 ml | C(C)#N | C2H3N
product | 3,7-Bis[1,3-bis(trifluoroacetyl)-2,3-dihydroimidazol-2-yl]-10-phenylphenothiazine | 110 g | FC(C(=O)N1C(N(C=C1)C(C(F)(F)F)=O)C=1C=CC=2N(C3=CC=C(C=C3SC2C1)C1N(C=CN1C(C(F)(F)F)=O)C(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C32H17F12N5O4S
